US06908919B2
A mixture of methyl 3-nitrobenzoate (122 g, 674 mmol), silver sulphate (100 g, 320.7 mmol) and concentrated sulfuric acid (750 mL) was stirred mechanically and heated at 90° C. To this mixture was added bromine (37 mL), dropwise, over 2 h. The reaction was stirred another hour, cooled and filtered. The filtrate was mixed with 2 L water and 1 Kg crushed ice. The solid was filtered and dried to afford a mixture of the desired methyl ester and free acid hydrolysis product. The mixture was taken up into methanol (1 L), treated with 10 drops concentrated sulfuric acid and refluxed for 12 h. The reaction mixture was allowed to cool and the crystals that were deposited were collected and dried in a desiccator to afford 126 g (72% yield) of methyl 3-bromo-5-nitrobenzoate (EX-119A): 1H NMR (300 MHz, CDCl3) δ 8.65 (s, 1 H), 8.44 (s, 1 H), 8.37 (s, 1 H), 3.94 (s, 3H).

reactant | methyl 3-nitrobenzoate | 674 mmol, 122 g | [N+](=O)([O-])C=1C=C(C(=O)OC)C=CC1 | C8H7NO4
reactant | sulfuric acid | 750 mL | S(O)(O)(=O)=O | H2O4S
reactant | bromine | 37 mL | BrBr | Br2
catalyst | sulfuric acid | 10 drops | S(O)(O)(=O)=O | H2O4S
catalyst | silver sulphate | 320.7 mmol, 100 g | S(=O)(=O)([O-])[O-].[Ag+2]
solvent | methanol | 1 L | CO | CH4O
product | methyl 3-bromo-5-nitrobenzoate | 126 g, 72% yield | BrC=1C=C(C(=O)OC)C=C(C1)[N+](=O)[O-] | C8H6BrNO4
